US07405228B2
(S)-N-{3-[4-(4-(1-cyanoethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-trichloroacetamide
The title compound was prepared by following the procedure of Example 29 and by using (S)-N-{3-[4-(4-(1-cyanoethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine and trichloroacetic acid in 45% yield.

reactant | (S)-N-{3-[4-(4-(1-cyanoethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine | C(#N)C(C)=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN)=O)F | C18H21FN4O2
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
product | (S)-N-{3-[4-(4-(1-cyanoethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-trichloroacetamide | 45% yield | C(#N)C(C)=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C(Cl)(Cl)Cl)=O)=O)F | C20H20Cl3FN4O3
